US07332622B2
Preparation of methyl 2-methoxycarbonyl-2-methyl-4-nitro-3-phenylbutanoate
[(S,S)-N-(pentamethylbenzenesulfonyl)-1,2-diphenyl-ethylenediamine](hexamethylbenzene)ruthenium (13.7 mg, 0.02 mmol, S/C=50), trans-β-nitrostyrene (149 mg, 1.0 mmol), dimethyl methylmalonate (160 μl, 1.2 mmol) and toluene (1 ml) were added into Schlenk (20 ml) under an argon atmosphere, and stirred at −20° C. for 48 hours. The reaction solution was purified by flash column chromatography (hexane/acetone=90/10, SiO2), showing that the isolation yield of the product was 94%. The optical purity was measured by HPLC (CHIRALPACK AD manufactured by Daicel Co., Ltd., hexane:2-propanol=95:5, flow rate 0.5 m/min, detection by 210 nm), resulting to 97% ee.

reactant | trans-β-nitrostyrene | 1.0 mmol, 149 mg | [N+](=O)([O-])\C=C\C1=CC=CC=C1 | C8H7NO2
reactant | dimethyl methylmalonate | 1.2 mmol, 160 μl | CC(C(=O)OC)C(=O)OC | C6H10O4
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-methoxycarbonyl-2-methyl-4-nitro-3-phenylbutanoate | COC(=O)C(C(=O)OC)(C(C[N+](=O)[O-])C1=CC=CC=C1)C | C14H17NO6
